datasets/RMG-dataset.csv
rxn,Ea
[C:0]([S:1])([H:2])([H:3])[H:4].[S:5]([S:6][H:8])[H:7]>>[C:0]([S:1][H:7])([H:2])([H:3])[H:4].[S:5][S:6][H:8],-9.6232
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][O:15][H:16],6.635824
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])[H:9],81.6298
[C:0]([C:1]([C:2]([O:3][O:4])([H:12])[H:13])([C:5]([O:6][O:7][H:16])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([O:3][O:4][H:8])([H:12])[H:13])([C:5]([O:6][O:7][H:16])([H:14])[H:15])[H:11])([H:9])[H:10],102.0896
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[C:7]([S:8])([H:9])([H:10])[H:11]>>[C:0]([H:3])([H:4])[H:5].[S:1]([S:2][H:6])[S:8][C:7]([H:9])([H:10])[H:11],48.116
[C:5]([H:6])([H:7])[H:8].[O:0]([O:1][O:2][H:4])[H:3]>>[O:0]([H:3])[C:5]([H:6])([H:7])[H:8].[O:1][O:2][H:4],35.1911
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:17]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[H:17])([H:9])[H:10],19.623
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[O:8]([H:9])[H:10]>>[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[O:8][H:10])[H:6])([H:4])[H:5],122.759
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][H:8],18.1586
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])[H:12])[H:11],40.7522
[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[S:0]([H:1])[H:2]>>[H:1][C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[S:0][H:2],-1.6736
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([S:10][H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:11])([S:10][H:13])[H:12],60.2496
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:21]([H:22])([H:23])[H:24])[H:11],21.715
[C:0](#[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11])[H:9].[H:17]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11])[H:17])[H:9],20.547624
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])[C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])=[C:4]([H:15])[H:16])([H:8])([H:9])[H:19].[C:5](=[C:6]([C:7]([H:21])([H:22])[H:23])[H:20])([H:17])[H:18],224.898368
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:12])[O:6]1)([H:8])([H:9])[H:10].[O:7][H:16],40.9542472
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[C:14]#[C:15][H:16]>>[C:0](#[C:1][c:2]1[c:3][c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:9][C:14]#[C:15][H:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[S:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:14])[H:5].[C:12](=[S:13])[H:15],114.976
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[O:13][H:14]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:10][O:13][H:14],0.0
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:6],46.024
